US05399573
2(RS)-Methyl-thiazolidine-4-carboxylic Acid
Acetaldehyde (0.27 g) and L-cysteine (0.75 g) were reacted in aqueous solution 10 ml at room temperature for 1.5 hours, followed by solvent evaporation evaporated in vacuo. The resulting product was recrystallized from methanol to yield the title compound. Melting Point: 161°-163° centigrade Optical Rotation [α]26D: -148°.

reactant | Acetaldehyde | 0.27 g | C(C)=O | C2H4O
reactant | L-cysteine | 0.75 g | N[C@@H](CS)C(=O)O | C3H7NO2S
product | 2(RS)-Methyl-thiazolidine-4-carboxylic Acid | CC1SCC(N1)C(=O)O | C5H9NO2S
